US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-(2-methoxyphenyl)-1-piperazinecarboxamide
As described for example 159, 7-chloro-4-(1-piperazinyl)-2-quinolinamine, 1-isocyanato-2-methoxy-benzene, and diisopropylethyl amine, are reacted to give the title product. LC-MS: 411 (M++1). 1H NMR (CDCl3) δ 3.15–3.25 (m, 4H), 3.7–3.85 (m, 4H), 3.9 (s, 3H), 4.6–4.8 (s, 2H), 6.2 (s, 1H), 6.86–6.9 (m, 1H), 6.94–7.02 (m, 2H), 7.16–7.21 (m, 2H), 7.62–7.65 (d, 1H), 7.74–7.78 (d, 1H), 8.14–8.19 (m, 1H).

reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
reactant | 1-isocyanato-2-methoxy-benzene | N(=C=O)C1=C(C=CC=C1)OC | C8H7NO2
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-(2-methoxyphenyl)-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1=C(C=CC=C1)OC)Cl | C21H22ClN5O2
